US08809363B2
Step 1: Methyl (2S)-tert-butoxy[4-(4-chloro-2-fluorophenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetate
The title compound was prepared from Methyl (2S)-tert-butoxy(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl)acetate (Preparation 16, 100 mg, 212 μmol) and (4-chloro-2-fluorophenyl)boronic acid (74 mg, 424 μmol) using the same method as described in Example 44, Step 1 to yield 57 mg, 56%. Material obtained was a mixture of atropisomers, in a 3:1 ratio. 1H NMR (400 MHz, CDCl3) δ ppm 1.01 (s, 9H), 1.48-1.55 (m, 1H), 1.69-1.75 (m, 3H), 1.95-2.03 (m, 1H), 2.72 (s, 3H), 2.80-2.86 (m, 3H), 3.66 (s, 3H), 4.98 (s, 1H), 7.19-7.21 (m, 1H), 7.25-7.27 (m, 1H), 7.35-7.37 (m, 1H).

reactant | Methyl (2S)-tert-butoxy(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl)acetate | 212 μmol, 100 mg | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)I | C19H24INO3S
reactant | (4-chloro-2-fluorophenyl)boronic acid | 424 μmol, 74 mg | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
product | Methyl (2S)-tert-butoxy[4-(4-chloro-2-fluorophenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetate | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=C(C=C(C=C1)Cl)F | C25H27ClFNO3S
